US08895712B2
N-Dimethylaminosulfonyl-2-(tributylstannyl)imidazole (930 mg, 2.0 mmol) was added to a solution of 1-[2-deoxy-3,5-di-O-(toluoyl)-β-D-ribofuranosyl]-4-iodo-pyrrolo[2,3-b]pyridine (596 mg, 1.0 mmol), lithium chloride (42 mg, 1.0 mmol), and tetrakis(triphenylphosphine)palladium (58 mg, 0.05 mmol) in dioxane (10 mL), followed by stirring at 120° C. for 4 hr. The reaction solution was concentrated and was then purified with a silica gel column, and methanolic ammonia (30 mL) was added thereto. The resulting mixture was stirred at room temperature for 24 hr. The reaction solution was concentrated and purified with a silica gel column and then with HPLC to yield 218 mg (54%, second stage yield) of 1-(2-deoxy-β-D-ribofuranosyl)-4-(N-dimethylaminosulfonyl-2-imidazolyl)-pyrrolo[2,3-b]pyridine. 1-(2-Deoxy-β-D-ribofuranosyl)-4-(N-dimethylaminosulfonyl-2-imidazolyl)-pyrrolo[2,3-b]pyridine (200 mg, 0.49 mmol) was dissolved in 80% acetic acid, followed by stirring at 60° C. for 3 hr. The reaction solution was concentrated, and aqueous ammonia was added thereto for further concentration. Subsequently, 1-(2-deoxy-β-D-ribofuranosyl)-4-(2-imidazolyl)-pyrrolo[2,3-b]pyridine (dDia: 109 mg, 74%) was obtained through purification by HPLC.

reactant | 1-(2-Deoxy-β-D-ribofuranosyl)-4-(N-dimethylaminosulfonyl-2-imidazolyl)-pyrrolo[2,3-b]pyridine | 0.49 mmol, 200 mg | [C@@H]1(C[C@H](O)[C@H](O1)CO)N1C=CC=2C1=NC=CC2C=2N(C=CN2)S(=O)(=O)N(C)C | C17H21N5O5S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2-deoxy-β-D-ribofuranosyl)-4-(2-imidazolyl)-pyrrolo[2,3-b]pyridine | 109 mg, 74% | [C@@H]1(C[C@H](O)[C@H](O1)CO)N1C=CC=2C1=NC=CC2C=2NC=CN2 | C15H16N4O3
